US07615562B2
3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indole-7-sulfonic acid methylamide
The title compound was prepared as described in Example 215, starting from SEM-protected 1H-indole-7-sulfonic acid methylamide and (4-chloro-pyrimidin-2-yl)(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by cleavage of the SEM-protecting groups with TBAF. Yield: 70 mg (5%).

reactant | 1H-indole-7-sulfonic acid methylamide | CNS(=O)(=O)C=1C=CC=C2C=CNC12 | C9H10N2O2S
reactant | (4-chloro-pyrimidin-2-yl)(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indole-7-sulfonic acid methylamide | CNS(=O)(=O)C=1C=CC=C2C(=CNC12)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C22H30N6O2S
